* OPA355
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA355
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: TINA
* Simulator Version: 9.1.30.94 SF-TI
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS195D MARCH 2001 REVISED JANUARY 2004
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* This Model is applicable to OPA355, OPA2355 & OPA3355
* FEATURES MODELED ARE
* OPEN LOOP GAIN AND PHASE
* INPUT VOLTAGE NOISE W 1/F
* INPUT CURRENT NOISE W 1/F
* INPUT CURRENT NOISE W F^2
* INPUT BIAS CURRENT
* INPUT CAPACITANCE
* CMRR WITH FREQUENCY EFFECTS
* + PSRR WITH FREQUENCY EFFECTS
* - PSRR WITH FREQUENCY EFFECTS
* SLEW RATE
* QUIESCENT CURRENT
* QUIESCENT CURRENT VS VOLTAGE
* SHUTDOWN
* OUTPUT CURRENT THROUGH SUPPLIES
* INPUT CLAMPS TO RAILS
* OUTPUT CLAMPS TO RAILS
* OUTPUT CURRENT LIMITING
* OUTPUT SWING VS OUTPUT CURRENT
* OUTPUT IMPEDANCE
* END OF FEATURES
*
* BEGIN MODEL OPA355
* PINOUT ORDER  1   2  3   4   5  6
* PINOUT       OUT -V +IN -IN EN +V
*****************************************************************************
.SUBCKT OPA355 1 2 3 4 5 6

* R3 AND R4 SYNTAX FOR PSPICE, HSPICE,
* AND BERKELEY 2G.6
R3 10 11 200 TC=-0.005
R4 12 11 200 TC=-0.005

*R3 AND R4 SYNTAX FOR BERKELEY 3X.X
*R3 10 11 200 R1M
*R4 12 11 200 R1M
*.MODEL R1M R TC1=-0.005

Q20 7 8 9 QN
R10 8 13 100
R11 14 15 100
R12 15 6 0.3
R13 2 13 6
R16 16 17 5
R17 18 19 0.3
R18 9 20 6
D5 1 6 DD
D6 2 1 DD
D7 21 0 DIN
D8 22 0 DIN
I8 0 21 0.1E-3
I9 0 22 0.1E-3
E2 9 0 2 0 1
E3 19 0 6 0 1
D9 23 0 DVN
D10 24 0 DVN
I10 0 23 0.1E-3
I11 0 24 0.1E-3
E4 25 4 23 24 1
G2 26 4 21 22 5.3E-8
I12 6 27 3.78E-3
R22 27 6 1087
E5 28 0 19 0 1
E6 29 0 9 0 1
E7 30 0 31 0 1
R30 28 32 1E6
R31 29 33 1E6
R32 30 34 1E6
R33 0 32 100
R34 0 33 100
R35 0 34 100
E10 35 3 34 0 1
R36 36 31 1E3
R37 31 37 1E3
C6 28 32 0.2E-12
C7 29 33 0.2E-12
C8 30 34 2E-12
E11 38 35 33 0 0.2
E12 26 38 32 0 1
E14 39 9 19 9 0.5
D11 16 19 DD
D12 9 16 DD
R41 47 48 125
R42 49 48 125
R43 51 41 100
R44 52 40 100
E15 42 51 16 39 -1
E16 52 50 16 39 1
G3 16 39 45 43 0.4E-3
R45 39 16 1.69E6
C12 17 1 2.2E-12
R46 53 43 5E3
R47 53 45 5E3
C13 43 45 0.018E-12
C14 26 0 1.5E-12
C15 25 0 1.5E-12
C16 1 0 1E-12
D13 40 7 DD
D14 54 41 DD
G4 51 52 55 0 600E-6
G5 46 9 55 0 400E-6
Q15 54 14 19 QP
E17 58 16 55 0 2
E18 59 39 55 0 -2
V13 57 59 1
V14 56 58 -1
V15 60 61 -1
E19 61 2 55 0 2
I13 6 2 3.4E-6
D15 62 19 DD
D16 9 62 DD
R52 5 62 33E3
C17 5 63 1E-12
C18 62 63 1E-12
V16 65 9 2.8
E20 55 0 66 9 0.3571
V17 63 9 1.4
V18 26 44 0
G6 26 9 55 0 3E-12
G7 25 9 55 0 3E-12
R53 58 0 1E9
R54 59 0 1E9
R55 0 39 1E9
R56 55 0 1E9
R57 65 0 1E9
R58 9 63 1E9
R59 38 26 1E9
R60 35 38 1E9
R61 3 35 1E9
E21 36 0 4 0 1
E22 37 0 26 0 1
V19 19 48 0.6
V20 53 9 -0.5
C19 64 9 4E-12
J1 26 9 26 J
J2 25 9 25 J
J3 19 26 19 J
J4 19 25 19 J
M1 1 40 13 13 NOUT L=1.5U W=2000U
M2 1 41 15 15 POUT L=1.5U W=2000U
M3 42 42 18 18 POUT L=1.5U W=2000U
M4 43 44 10 10 PIN L=6U W=500U
M5 45 25 12 12 PIN L=6U W=500U
M6 11 46 47 47 PIN L=6U W=100U
M7 46 46 49 49 PIN L=6U W=100U
M8 50 50 20 20 NOUT L=1.5U W=2000U
M9 39 56 16 16 PSW L=1.5U W=15U
M10 16 57 39 39 NSW L=1.5U W=15U
M11 27 60 2 2 NSW L=1.5U W=1500U
M12 64 62 65 65 PSW L=1.5U W=15U
M13 64 62 9 9 NSW L=1.5U W=1.5U
M14 66 64 65 65 PSW L=1.5U W=15U
M15 66 64 9 9 NSW L=1.5U W=15U
.MODEL DD D
.MODEL QN NPN
.MODEL QP PNP
.MODEL DVN D KF=5E-13
.MODEL DIN D
.MODEL J NJF
.MODEL POUT PMOS KP=230U VTO=-0.7 LAMBDA=0.01
.MODEL NOUT NMOS KP=170U VTO=0.7 LAMBDA=0.01
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL PSW PMOS KP=200U VTO=-0.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=0.5 IS=1E-18
.ENDS
* END MODEL OPA355